US05401765
Step 3: Preparation of 4(4-fluorophenyl)-5-[4-(methylsulfonyl)phenyl]-1-phenyl-3-(trifluoromethyl)pyrazole.
To a mixture of 140 mg of 4-(4-fluorophenyl)-5-[4-(methylthio)phenyl]1-phenyl-3(trifluoromethyl)pyrazole and 30 mL of glacial acetic acid was added 4.1 g of 30% hydrogen peroxide. The reaction mixture was stirred at room temperature for 18 hours, heated at 80° C. for 8 hours, and poured into water. The insoluble solid was filtered and air dried to give 150 mg of solid, mp 201.5°-203° C.

reactant | 4-(4-fluorophenyl)-5-[4-(methylthio)phenyl]1-phenyl-3(trifluoromethyl)pyrazole | 140 mg | FC1=CC=C(C=C1)C=1C(=NN(C1C1=CC=C(C=C1)SC)C1=CC=CC=C1)C(F)(F)F | C23H16F4N2S
reactant | acetic acid | 30 mL | C(C)(=O)O | C2H4O2
reactant | hydrogen peroxide | 4.1 g | OO | H2O2
reactant | water | O | H2O
product | 4(4-fluorophenyl)-5-[4-(methylsulfonyl)phenyl]-1-phenyl-3-(trifluoromethyl)pyrazole | 150 mg | FC1=CC=C(C=C1)C=1C(=NN(C1C1=CC=C(C=C1)S(=O)(=O)C)C1=CC=CC=C1)C(F)(F)F | C23H16F4N2O2S
